US07141561B2
1-[4-(2-Aminoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one
A solution of 1-[4-(2-bromoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one (50 mg) in acetonitrile (1 ml) was left to stand with ammonia solution (1 ml) and sodium iodide (5 mg) and 24 hours. After repeated addition of the ammonia solution, the reaction was kept at 40° C. for 5 hours. The cooled reaction solution was filtered and concentrated. The residue was purified by preparative HPLC. The product with the molecular weight of 387.44 (C24H21N3O3); MS (ESI): 388 ([M+H]+), was obtained as hydroformate in this way.

reactant | 1-[4-(2-bromoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | 50 mg | BrCCOC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C23H19BrN2O3
reactant | ammonia | 1 ml | N | H3N
reactant | sodium iodide | 5 mg | [I-].[Na+]
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 1-[4-(2-Aminoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | NCCOC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C23H21N3O3
